US06291467B1
A mixture of 1.96 g of 1-[4-(4-fluorophenyl)-4-oxobutyl]-4-(2-fluorobenzylidene)piperidine hydrochloride, 345 mg of anhydrous potassium carbonate, 5.0 ml of N,N-dimethylformamide dimethylacetal, 3.5 ml of pyrrolidine and 5.0 ml of N,N-dimethylformamide was stirred on an oil bath at 120° C. for 2.5 hours. The reaction solution was separated with ethyl acetate and water, and the organic layer was concentrated under reduced pressure to give a crude 1-[4-(4-fluorophenyl)-4-oxo-3-pyrrolidinomethylenebutyl]-4-(2-fluorobenzylidene)piperidine as an oil.

reactant | 1-[4-(4-fluorophenyl)-4-oxobutyl]-4-(2-fluorobenzylidene)piperidine hydrochloride | 1.96 g | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)=CC1=C(C=CC=C1)F)=O
reactant | potassium carbonate | 345 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide dimethylacetal | 5.0 ml | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 3.5 ml | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 1-[4-(4-fluorophenyl)-4-oxo-3-pyrrolidinomethylenebutyl]-4-(2-fluorobenzylidene)piperidine | FC1=CC=C(C=C1)C(C(CCN1CCC(CC1)=CC1=C(C=CC=C1)F)=CN1CCCC1)=O | C27H30F2N2O
